US07579341B2
A6a) tert-butyl(1′-benzyl-[1,4′]bipiperidinyl-4-yl)-carbamate
A solution of 5.0 g (25.0 mmol) tert-butyl piperidin-4-yl-carbamate and 4.46 mL (25.0 mmol) 1-benzyl-piperidin-4-one in 150 mL THF was adjusted with AcOH to a pH of 5 and then combined batchwise with 5.61 g (26.5 mmol) NaBH(OAc)3 within 3 h while cooling with ice. The reaction mixture was stirred overnight at RT, then made alkaline with 500 mL 30% K2CO3 solution, stirred for 1 h at RT, extracted three times with 100 mL EtOAc and the combined organic phases were dried over Na2SO4. After elimination of the desiccant and solvent the residue was reacted further without purification.

reactant | tert-butyl piperidin-4-yl-carbamate | 25.0 mmol, 5.0 g | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | 1-benzyl-piperidin-4-one | 25.0 mmol, 4.46 mL | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | NaBH(OAc)3 | 26.5 mmol, 5.61 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | K2CO3 | 500 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | AcOH | CC(=O)O | C2H4O2
product | tert-butyl(1′-benzyl-[1,4′]bipiperidinyl-4-yl)-carbamate | C(C)(C)(C)OC(NC1CCN(CC1)C1CCN(CC1)CC1=CC=CC=C1)=O | C22H35N3O2
